US05492964
To a suspension of 2-methyl-l,4-dihydrobenzoic acid (0.085 g, 0.50 mmol; 81% pure, from Aldrich Chemical Company) in decalin (5 mL) under a nitrogen atmosphere was added the polysiloxane matrix material containing a homogeneous dispersion of metal particles (0.100 g as prepared according to Example 1). The solution was heated to reflux for 19 hours. On cooling the reaction mixture was diluted with hexane (25 mL) and extracted with aqueous sodium hydroxide (5%) solution (2×5 mL). The basic aqueous solution was acidified and extracted with chloroform (3×4 mL). The combined organic layer was dried over anhydrous sodium sulfate. Removal of solvent on rotary evaporator gave 2-methylbenzoic acid (0.065 g. 96%). IR(KBr) 3600-2000 (br), 2923, 1694, 1300, 920,731 cm-1. 1H NMR (300 MHz, CDCl3) δ 8.03 (ddd, J=8.5, 3.0, 1.5 Hz, 1 H), 7.42 (td, J=8.5, 1.5 Hz, 1H), 7.26 (td, J=8.5, 1.5 Hz, 1 H), 7.22 (dd, J=8.5, 1.5 Hz, 1 H), 2.64 (s, 3H).

reactant | 2-methyl-l,4-dihydrobenzoic acid | 0.50 mmol, 0.085 g | CC=1C(C(=O)O)C=CCC1 | C8H10O2
reactant | polysiloxane | [SiH2](O[*:2])[*:1]
solvent | decalin | 5 mL | C1CCCC2CCCCC12 | C10H18
solvent | hexane | 25 mL | CCCCCC | C6H14
product | 2-methylbenzoic acid | 0.065 g, 96% | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
